US08293768B2
Synthesis of 5-(3-(4-carbamoylbenzyl)-2-oxoimidazolidin-1-yl)-3-methyl-N-(pyridin-3-ylmethyl)thiophene-2-carboxamide
Following the procedures as described in Example 55, making variations as required to replace 3-methyl-5-(2-oxo-3-(2-phenoxyethyl)imidazolidin-1-yl)thiophene-2-carboxylic acid with 5-(3-(4-carbamoylbenzyl)-2-oxoimidazolidin-1-yl)-3-methylthiophene-2-carboxylic acid to react with 3-(aminomethyl)pyridine, the title compound was obtained as a cream solid in 71% yield: mp 188° C. (dec.); 1H NMR (300 MHz, DMSO-d6) δ 8.53 (s, 1H), 8.45 (d, J=4.0 Hz, 1H), 8.31, (t, J=5.8 Hz, 1H), 7.97 (s, 1H), 7.86 (d, J=8.0 Hz, 2H), 7.71 (d, J=7.8 Hz, 1H), 7.42-7.32 (m, 4H), 6.24 (s, 1H), 4.44 (s, 2H), 4.39 (d, J=5.8 Hz, 2H), 3.84 (t, J=7.8 Hz, 2H), 3.45 (t, J=7.8 Hz, 2H), 2.37 (s, 3H); 13C NMR (75 MHz, DMSO-d6) δ 167.5, 162.9, 155.5, 148.8, 147.8, 140.0, 139.0, 135.4, 135.0, 133.4, 127.7, 127.4, 123.3, 119.9, 112.0, 46.8, 42.5, 41.5, 15.7; MS (ES+) m/z 450.4 (M+1).

reactant | 3-methyl-5-(2-oxo-3-(2-phenoxyethyl)imidazolidin-1-yl)thiophene-2-carboxylic acid | CC1=C(SC(=C1)N1C(N(CC1)CCOC1=CC=CC=C1)=O)C(=O)O | C17H18N2O4S
reactant | 5-(3-(4-carbamoylbenzyl)-2-oxoimidazolidin-1-yl)-3-methylthiophene-2-carboxylic acid | C(N)(=O)C1=CC=C(CN2C(N(CC2)C2=CC(=C(S2)C(=O)O)C)=O)C=C1 | C17H17N3O4S
reactant | 3-(aminomethyl)pyridine | NCC=1C=NC=CC1 | C6H8N2
product | 5-(3-(4-carbamoylbenzyl)-2-oxoimidazolidin-1-yl)-3-methyl-N-(pyridin-3-ylmethyl)thiophene-2-carboxamide | 71% yield | C(N)(=O)C1=CC=C(CN2C(N(CC2)C2=CC(=C(S2)C(=O)NCC=2C=NC=CC2)C)=O)C=C1 | C23H23N5O3S
